US09388185B2
Step 1. 4-(4-Bromophenyl)-1-methylpiperazin-2-one
A mixture of 1,4-dibromobenzene (470 mg, 2.0 mmol), 1-methylpiperazin-2-one hydrochloride (150 mg, 1.0 mmol, from J&W PharmLab), palladium acetate (6.7 mg, 0.030 mmol), (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (0.035 g, 0.060 mmol), and cesium carbonate (0.98 g, 3.0 mmol) in toluene (5.0 mL) was evacuated and refilled with nitrogen three times and then the reaction was stirred at 105° C. overnight. The mixture was diluted with ethyl acetate, washed with water, brine, then dried over Na2SO4, filtered and concentrated. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (0-60%) to afford the desired product (0.26 g, 49%). LCMS calculated for C11H14BrN2O (M+H)+: m/z=269.0. Found 269.0.

reactant | 1,4-dibromobenzene | 2.0 mmol, 470 mg | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | 1-methylpiperazin-2-one hydrochloride | 1.0 mmol, 150 mg | Cl.CN1C(CNCC1)=O
reactant | cesium carbonate | 3.0 mmol, 0.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium acetate | 0.030 mmol, 6.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.060 mmol, 0.035 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 4-(4-Bromophenyl)-1-methylpiperazin-2-one | 0.26 g, 49% | BrC1=CC=C(C=C1)N1CC(N(CC1)C)=O | C11H13BrN2O
